US08859773B2
Step 4: 2-((2,2,2-trifluoroethyl)amino)quinoline-7-carboxylic acid
To a solution of methyl 2-((2,2,2-trifluoroethyl)amino)quinoline-7-carboxylate (172 mg, 0.605 mmol) in tetrahydrofuran (5 mL) was added aqueous lithium hydroxide (1.82 mL, 1.82 mmol, 1M solution) at room temperature. The reaction was stirred for 2.5 days. The solvent was removed under reduced pressure and the residue was acidified with 1N aqueous hydrochloric acid. The resulting precipitate was filtered and dried to give the title compound (65 mg, 40%) +ESI (M+H) 271.1, 1H NMR (400 MHz, DMSO-d6, δ): 4.31-4.41 (m, 2H) 7.01 (d, J=8.87 Hz, 1H) 7.69-7.80 (m, 2H) 8.06 (d, J=8.66 Hz, 1H) 8.14 (s, 1H) 13.03 (bs, 1H)

reactant | methyl 2-((2,2,2-trifluoroethyl)amino)quinoline-7-carboxylate | 0.605 mmol, 172 mg | FC(CNC1=NC2=CC(=CC=C2C=C1)C(=O)OC)(F)F | C13H11F3N2O2
reactant | lithium hydroxide | 1.82 mmol, 1M, 1.82 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-((2,2,2-trifluoroethyl)amino)quinoline-7-carboxylic acid | 65 mg, 40% | FC(CNC1=NC2=CC(=CC=C2C=C1)C(=O)O)(F)F | C12H9F3N2O2
